US06235851B1
To 2 mL of dioxane were added 1.00 mmol of 1,3-dicarboxy-5-adamantanol, 0.10 mmol of samarium iodide (SmI2), 2.20 mmol of isopropenyl acrylate, and the resultant mixture was stirred at a temperature of 50° C. for 4 hours. The analysis by gas chromatography showed the formation of a 1,3-dicarboxy-5-acryloyloxyadamantane (yield: 82%, white solid) in the reaction mixture.

reactant | 1,3-dicarboxy-5-adamantanol | 1.00 mmol | C(=O)(O)C12CC3(CC(CC(C1)C3)(C2)O)C(=O)O | C12H16O5
reactant | samarium iodide | 0.10 mmol | [I-].[Sm+3].[I-].[I-]
reactant | isopropenyl acrylate | 2.20 mmol | C(C=C)(=O)OC(=C)C | C6H8O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 1,3-dicarboxy-5-acryloyloxyadamantane | yield: 82% | C(=O)(O)C12CC3(CC(CC(C1)C3)(C2)OC(C=C)=O)C(=O)O | C15H18O6
